US07868012B2
A solution of 4,6-dichloro-5-(4-bromophenyl)-pyrimidine (405 mg, 1.33 mmol) and 3-benzyloxypropylsulfamide potassium (752 mg, 2.66 mmol) in DMSO is stirred at rt under argon for 18 h. The clear solution is poured onto 10% aq. citric acid solution (50 mL) and extracted twice with EA (2×75 mL). The organic extracts are washed with water (50 mL) and the solvent is evaporated. The residue is purified by column chromatography on silica gel eluting with hexane/EA 3:2 to afford 1-benzyloxypropanesulfamic acid [6-chloro-5-(4-bromophenyl)-pyrimidin-4-yl]-amide (524 mg) as a colourless foam. LC-MS: tR=1.05 min, [M+H]+=510.96; 1H NMR (CDCl3): δ 8.44 (s, 1H), 7.71-7.65 (m, 2H), 7.40-7.28 (m, 5H), 7.18-7.12 (m, 2H), 6.90 (s, 1H), 6.05 (t, J=5.9 Hz, 1H), 4.49 (s, 2H), 3.57 (t, J 0 5.9 Hz, 2H), 3.18 (q, J=5.9 Hz, 2H), 1.88 (p, J=5.9 Hz, 2H).

reactant | 4,6-dichloro-5-(4-bromophenyl)-pyrimidine | 1.33 mmol, 405 mg | ClC1=NC=NC(=C1C1=CC=C(C=C1)Br)Cl | C10H5BrCl2N2
reactant | 3-benzyloxypropylsulfamide potassium | 2.66 mmol, 752 mg | [K].C(C1=CC=CC=C1)OCCCNS(=O)(=O)N
reactant | citric acid | 50 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | DMSO | CS(=O)C | C2H6OS
product | 1-benzyloxypropanesulfamic acid [6-chloro-5-(4-bromophenyl)-pyrimidin-4-yl]-amide | 524 mg | ClC1=C(C(=NC=N1)NS(NC(CC)OCC1=CC=CC=C1)(=O)=O)C1=CC=C(C=C1)Br | C20H20BrClN4O3S
